US06569854B1
The procedure is carried out in a manner similar to that described in Example 63, but starting with 4.20 g of methyl cis-4-aminocyclohexane-1-carboxylate hydrochloride, 4.0 g of 4-morpholinobutyric acid, 50 mg of hydroxybenzotriazole hydrate, 11.2 cm3 of triethylamine, 200 cm3 of dichloromethane and 4.2 g of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride. After a treatment similar to that in Example 60, the crude product is purified by flash chromatography [eluent: dichloromethane/methanol (95/5 by volume)] to give 5.0 g of methyl cis-4-(4-morpholinobutyrylamino)-1-cyclohexanecarboxylate in the form of a yellow oil.

reactant | methyl cis-4-aminocyclohexane-1-carboxylate hydrochloride | 4.20 g | Cl.N[C@H]1CC[C@H](CC1)C(=O)OC
reactant | 4-morpholinobutyric acid | 4.0 g | O1CCN(CC1)CCCC(=O)O | C8H15NO3
reactant | triethylamine | 11.2 cm3 | C(C)N(CC)CC | C6H15N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.2 g | Cl.CN(CCCN=C=NCC)C
catalyst | hydroxybenzotriazole hydrate | 50 mg | O.OC1=CC=CC=2NN=NC21
solvent | dichloromethane | 200 cm3 | ClCCl | CH2Cl2
product | methyl cis-4-(4-morpholinobutyrylamino)-1-cyclohexanecarboxylate | 5.0 g | O1CCN(CC1)CCCC(=O)N[C@H]1CC[C@H](CC1)C(=O)OC | C16H28N2O4
